US06462054B1
1-(Oxazolo[4,5-b]pyridin-2-yl)octadecane (61)
This material was prepared in 30% yield from 1-cyanooctadecane (Mangold, H. K., et al., (1976) Chem. Phys. Lipids 17, 176-181) and 2-amino-3-hydroxypyridine using Method C3: mp 84-85° C.

reactant | 1-cyanooctadecane | C(#N)CCCCCCCCCCCCCCCCCC | C19H37N
reactant | 2-amino-3-hydroxypyridine | NC1=NC=CC=C1O | C5H6N2O
product | 1-(Oxazolo[4,5-b]pyridin-2-yl)octadecane | 30% yield | O1C(=NC2=NC=CC=C21)CCCCCCCCCCCCCCCCCC | C24H40N2O
